US05455258
To a solution of D-valine (2000 g, 17.09 mol) in water (16.9 L) and acetone (9.5 L), cooled to 5° C., is added triethylamine (4769 mL, 34.22 mol), and the reaction is stirred for 30 minutes. Then a solution of 4-methoxybenzenesulfonyl chloride (3524 g, 18.48 mol) in acetone (7.4 L) is added over 30 minutes, and the reaction is stirred at room temperature overnight. Most of the acetone is evaporated off, and the pH is adjusted to pH=8.25 with 6N sodium hydroxide. The crude product is washed with toluene (2×10 L), and then the pH is re-adjusted to pH=2.2 with 6N hydrochloric acid. The mixture is then extracted with methylene chloride (3×12 L), the combined organic layers are washed with 2N hydrochloric acid, water, dried (Na2SO4), and the solvent is evaporated to provide N-[4-methoxybenzenesulfonyl]-(D)-valine.

reactant | D-valine | 17.09 mol, 2000 g | N[C@H](C(C)C)C(=O)O | C5H11NO2
reactant | triethylamine | 34.22 mol, 4769 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 18.48 mol, 3524 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | water | 16.9 L | O | H2O
solvent | acetone | 9.5 L | CC(=O)C | C3H6O
solvent | acetone | 7.4 L | CC(=O)C | C3H6O
product | N-[4-methoxybenzenesulfonyl]-(D)-valine | COC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(C)C)C(=O)O | C12H17NO5S
